US04532240
5-[4-(4-Cyanophenyl)-1-piperazinyl]-6-methyl-2,4-pyrimidinediamine
A mixture of 12.5 g (0.060 mole of 6-methyl-5-(1-piperazinyl)-2,4-pyrimidinediamine, 7.27 g (0.060 mole) of 4-fluorobenzonitrile, and 8.28 g (0.060 mole) of potassium carbonate was heated at 100° C. for two hours in 100 ml of dimethylsulfoxide. The mixture was then cooled and poured into 500 ml of ice water. The solid which separated was triturated with hot dimethylsulfoxide and then dried in vacuo overnight at 67° C. to give 15.56 g of the product as a white solid, mp>310° C.

reactant | 6-methyl-5-(1-piperazinyl)-2,4-pyrimidinediamine | 0.060 mole | CC1=C(C(=NC(=N1)N)N)N1CCNCC1 | C9H16N6
reactant | 4-fluorobenzonitrile | 0.060 mole, 7.27 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | potassium carbonate | 0.060 mole, 8.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 5-[4-(4-Cyanophenyl)-1-piperazinyl]-6-methyl-2,4-pyrimidinediamine | 15.56 g | C(#N)C1=CC=C(C=C1)N1CCN(CC1)C=1C(=NC(=NC1C)N)N | C16H19N7
